US09428528B2
Step 2 Preparation of: 2-(5-{4-[(4S,5R)-3-(2,2-Difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone (634 mg, 1.53 mmol) in a mixture of toluene (12 ml) and ethanol (9 ml) is added 2-(5-Bromo-pyridin-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 1.53 mmol), aqueous sodium bicarbonate solution (2M, 6 mmol, 3 ml), and 1,1′Bis(diphenylphosphino)ferrocene]dichloropalladium (II) (57 mg, 0.08 mmol). The stirred reaction mixture is heated at 80° C. under a blanket of nitrogen for 1 hour. The reaction is concentrated to ⅓ its volume and partitioned between ethyl acetate (25 ml) and water (25 ml). The organic phase is washed with saturated brine (25 ml) and concentrated on to silica gel (3 g). Purification by column chromatography (40 g silica gel, ethyl acetate/heptane 0-100%) affords the title compound (500 mg): 1H NMR (400 MHz, CDCl3) 1.25 (s, 5H) 1.48 (s, 4H), 1.64 (s, 3H), 1.70 (s, 3H), 1.85-1.98 (m, 2H), 1.99-2.1 (1H), 2.3-2.48 (m, 1H), 3.5-3.74 (m, 2H), 4.54-5.1 (m, 4H), 5.23-5.33 (m, 1H), 6.13 (t, 1H), 7.23-7.31 (m, 1H) 7.5-7.57 (m, 2H), 7.57-7.67 (m, 2H), 7.78-7.87 (m, 1H), 8.77 (s, 1H). m/z M+H 534.2.

reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone | 1.53 mmol, 634 mg | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | 2-(5-Bromo-pyridin-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.53 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC=C(C=C1)Br | C14H19BrN2O2
reactant | sodium bicarbonate | 6 mmol, 2M, 3 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 9 ml | C(C)O | C2H6O
catalyst | 1,1′Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium (II) | 0.08 mmol, 57 mg | Cl[Pd]Cl
product | 2-(5-{4-[(4S,5R)-3-(2,2-Difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC=C(C=C1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(C(F)F)=O)CF | C28H34F3N3O4
